US07402345B2
Synthesis of 2-(2-Fluoro-5-trifluoromethyl-phenyl)-4-methyl-pyridine
10.0 g (0.0481 mol) of 2-fluoro-5-(trifluoromethyl)phenylboronic acid, 5.52 g (0.0433 mol) of 2-chloro-4-methyl-pyridine, 1.10 g (0.0012 mol) of tris(dibenzylideneacetone) dipalladium (0), 0.67 g (0.00289 mol) of di-tert-butyl-trimethylsilylmethyl-phosphane, 8.0 g (0.0527 mol) of cesium fluoride and 100 ml of dioxane were stirred at room temperature for 24 hours. The resultant mixture was poured into 200 ml of water and extracted twice with 200 ml of methylene chloride. The organic phase was dried on magnesium sulfate overnight and filtered. The solvent was removed on a rotovapor and the residue was purified by chromatography on silica gel with petroleum ether/ethyl ether (10/0.5) as eluent. Yield of 2-(2-fluoro-5-trifluoromethyl-phenyl)-4-methyl-pyridine: 4.70 g (42.57%) as a colorless liquid. 1H NMR (CD2Cl2) 2.30 (s, 3H, Me), 6.90-8.50 (m, 6H, arom-H). 19F NMR (CD2Cl2) −63.75 (s, 3F, CF3), −112.44 (s, 1F, F-arom). LC/MS calculated for C13H9F4N 255.07; found 255.07.

reactant | 2-fluoro-5-(trifluoromethyl)phenylboronic acid | 0.0481 mol, 10.0 g | FC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C7H5BF4O2
reactant | 2-chloro-4-methyl-pyridine | 0.0433 mol, 5.52 g | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | di-tert-butyl-trimethylsilylmethyl-phosphane | 0.00289 mol, 0.67 g | C(C)(C)(C)P(C[Si](C)(C)C)C(C)(C)C | C12H29PSi
reactant | cesium fluoride | 0.0527 mol, 8.0 g | [F-].[Cs+]
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.0012 mol, 1.10 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Fluoro-5-trifluoromethyl-phenyl)-4-methyl-pyridine | FC1=C(C=C(C=C1)C(F)(F)F)C1=NC=CC(=C1)C | C13H9F4N
